US04649160
The 2-(4-methylthiophenyl)ethoxyacetic acid obtained according to the preceding paragraph was reduced with lithium aluminum hydride in a manner analogous to that described in Example 1(b) to give 1.97 g (54%) of 2-[2-(4-methylthiophenyl)ethoxy]ethanol in the form of an oil which was homogeneous according to chromatography.

reactant | 2-(4-methylthiophenyl)ethoxyacetic acid | CSC1=CC=C(C=C1)CCOCC(=O)O | C11H14O3S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-[2-(4-methylthiophenyl)ethoxy]ethanol | 1.97 g, 54% | CSC1=CC=C(C=C1)CCOCCO | C11H16O2S
